US06653334B1
Synthesis of tert-Butyl 2-(3-Allyloxycarbonylphenoxy)-2-methylpropionate
3-(1-tert-Butoxycarbonyl-1-methylethoxy)benzoic acid (14.92 g, 53.22 mmol) was dissolved in acetonitrile (60 mL). Subsequently, diisopropylamine (8.25 g, 63.87 mmol) was added thereto. Thereafter, allyl bromide (12.87 g, 106.45 mmol) was added dropwise, and the mixture was stirred for five hours at room temperature. Ethyl acetate was added for extraction. Washing was performed sequentially with water and saturated brine, followed by drying over magnesium sulfate. The reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (n-hexane/ethyl acetate=10/1), whereby a colorless oil was obtained (11.59 g, 36.19 mmol, 67.9%).

reactant | 3-(1-tert-Butoxycarbonyl-1-methylethoxy)benzoic acid | 53.22 mmol, 14.92 g | C(C)(C)(C)OC(=O)C(C)(OC=1C=C(C(=O)O)C=CC1)C | C15H20O5
reactant | diisopropylamine | 63.87 mmol, 8.25 g | C(C)(C)NC(C)C | C6H15N
reactant | allyl bromide | 106.45 mmol, 12.87 g | C(C=C)Br | C3H5Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | tert-Butyl 2-(3-Allyloxycarbonylphenoxy)-2-methylpropionate | C(C=C)OC(=O)C=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C18H24O5
